US05814631
As the starting substances, methyl 4-chloro-2-phenoxycarbonylaminobenzoate and pyrrole-2-sulfonamide were used and the same method was applied as in Example 36 to obtain N-(pyrrole-2-sulfonyl)-N'-(2-methoxycarbonyl-5-chlorophenyl)urea and further to obtain from 750 mg (2.16 mmol) of N-(pyrrole-2-sulfonyl)-N'-(2-carboxyl-5-chlorophenyl)urea 550 mg of the above-identified compound (yield 77.3%). Properties: colorless crystal, Melting point: >280° C. (decomposition), PMR (δppm, DMSO-d6):7.10 (1H,s), 7.24 (1H,d), 7.73 (1H,t), 7.85 (1H,d), 8.50 (1H,d), 7.93 (1H,d), 9.23 (1H,s), 11.68 (1H,s).

reactant | methyl 4-chloro-2-phenoxycarbonylaminobenzoate | ClC1=CC(=C(C(=O)OC)C=C1)NC(=O)OC1=CC=CC=C1 | C15H12ClNO4
reactant | pyrrole-2-sulfonamide | N1C(=CC=C1)S(=O)(=O)N | C4H6N2O2S
product | N-(pyrrole-2-sulfonyl)-N'-(2-methoxycarbonyl-5-chlorophenyl)urea | N1C(=CC=C1)S(=O)(=O)NC(=O)NC1=C(C=CC(=C1)Cl)C(=O)OC | C13H12ClN3O5S
